US08003806B2
(a) Methyl 3-(1,1′-biphenyl)-4-yl-3-{5-[(phenylsulfonyl)amino]-1H-benzimidazol-1-yl}propanoate
To a solution of methyl 3-(5-amino-1H-benzimidazol-1-yl)-3-(1,1′-biphenyl)-4-ylpropanoate (15 mg, 40 μmol) in dichloromethane (500 μL) was added benzenesulfonyl chloride (6.0 μL, 47 μmol) and N,N-diisopropylethylamine (8.0 μL, 46 μmol). The solution was stirred at room temperature for 48 hours, and was then evaporated in vacuo. The residue was purified by flash column chromatography on silica gel, eluting with a mixture of dichloromethane and methanol (96:4), to afford the title compound, [LCMS (Method A, Mobile Phase I) RT=5.50 min, MH+ 513].

reactant | methyl 3-(5-amino-1H-benzimidazol-1-yl)-3-(1,1′-biphenyl)-4-ylpropanoate | 40 μmol, 15 mg | NC1=CC2=C(N(C=N2)C(CC(=O)OC)C2=CC=C(C=C2)C2=CC=CC=C2)C=C1 | C23H21N3O2
reactant | benzenesulfonyl chloride | 47 μmol, 6.0 μL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | N,N-diisopropylethylamine | 46 μmol, 8.0 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 500 μL | ClCCl | CH2Cl2
product | Methyl 3-(1,1′-biphenyl)-4-yl-3-{5-[(phenylsulfonyl)amino]-1H-benzimidazol-1-yl}propanoate | C1(=CC=C(C=C1)C(CC(=O)OC)N1C=NC2=C1C=CC(=C2)NS(=O)(=O)C2=CC=CC=C2)C2=CC=CC=C2 | C29H25N3O4S
